US04218448
A stirred mixture of 6.0 g (0.02 mole) of α,α-bis(trifluoromethyl)-1,2,3,4-tetrahydro-6-quinolinemethanol, 2.6 g (0.02 mole) of ethyl acetoacetate, and 100 ml of xylene is refluxed for 16 hours. The mixture is allowed to cool and is evaporated. The residue is triturated with a mixture of toluene, ethyl acetate, and hexane (60:10:30). The insoluble portion is filtered off, washed with water, and dried to give 1.6 g (23%) of α,α-bis(trifluoromethyl)-1-(1,3-dioxobutyl)-1,2,3,4-tetrahydro-6-quinolinemethanol. C. A solution of 10.5 g (0.027 mole) of α,α-bis(trifluoromethyl)-1-(1,3-dioxobutyl)-1,2,3,4-tetrahydro-6-quinolinemethanol in 30 ml of concentrated sulfuric acid is heated on a steam bath for 30-45 minutes, cooled to approximately 60° C., and poured into ice. When the ice is melted, the precipitate is filtered off, washed with water, and dried. The solid is recrystallized from 2-ethoxyethanol to give 7.2 g (74% ) of 2,3-dihydro-9-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-7-methyl-1H,5H-benzo[ij]quinolizin-5-one, m.p. 295°-296°.

reactant | α,α-bis(trifluoromethyl)-1,2,3,4-tetrahydro-6-quinolinemethanol | 0.02 mole, 6.0 g | FC(C(O)(C=1C=C2CCCNC2=CC1)C(F)(F)F)(F)F | C12H11F6NO
reactant | ethyl acetoacetate | 0.02 mole, 2.6 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | α,α-bis(trifluoromethyl)-1-(1,3-dioxobutyl)-1,2,3,4-tetrahydro-6-quinolinemethanol | 1.6 g, 23% | FC(C(O)(C=1C=C2CCCN(C2=CC1)C(CC(C)=O)=O)C(F)(F)F)(F)F | C16H15F6NO3
